US08476267B2
4-(Trifluoroacetyl)morpholine
15 g (172 mmol) of morpholine were initially charged in 750 ml of dichloromethane, and 29 ml (206 mmol) of trifluoroacetic anhydride and 119 ml (688 mmol) of N,N-diisopropylethylamine were added at 0° C. The reaction mixture was warmed to RT and stirred at RT for another 3 h. The reaction mixture was concentrated and the residue was taken up in ethyl acetate and washed successively with aqueous sodium bicarbonate solution, 1N hydrochloric acid and once more with aqueous sodium bicarbonate solution. The organic phase was dried over magnesium sulfate and concentrated on a rotary evaporator. This gave 28 g (88% of theory) of the product as an oil.

reactant | morpholine | 172 mmol, 15 g | N1CCOCC1 | C4H9NO
reactant | trifluoroacetic anhydride | 206 mmol, 29 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N,N-diisopropylethylamine | 688 mmol, 119 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | 4-(Trifluoroacetyl)morpholine | FC(C(=O)N1CCOCC1)(F)F | C6H8F3NO2
